* SpiceNetList
* 
* Exported from generator_trikotniska.sch at 02/12/2021 10:45
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
X_D2 Z N_1 BZX84C3V3W 
R_R5 N_8 N_1 10k 
Q_Q2 C Z N_8 BC308B 
V_V1 N_1 0 DC 9V 
C_C1 C 0 100uF 
R_R4 0 Z 1k 
X_IC1 0 C N_3 N_1 N_2 C C N_1 UA555 
D_D1 N_2 N_3 DMOD 

* --------- models ---------

* model file: /home/david/EAGLE/spice/UA555.mdl
*
.SUBCKT UA555  34 32 30 19 23 33 1  21
*                          G  TR O  R  F  TH D  V
Q4 25 2 3 QP
Q5 34 6 3 QP
Q6 6 6 8 QP
R1 9 21 4.7K
R2 3 21 830
R3 8 21 4.7K
Q7 2 33 5 QN
Q8 2 5 17 QN
Q9 6 4 17 QN
Q10 6 23 4 QN
Q11 12 20 10 QP
R4 10 21 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 34 32 11 QP
Q15 14 18 13 QP
R5 14 34 100K
R6 22 34 100K
R7 17 34 10K
Q16 1 15 34 QN
Q17 15 19 31 QP
R8 18 23 5K
R9 18 34 5K
R10 21 23 5K
Q18 27 20 21 QP
Q19 20 20 21 QP
R11 20 31 5K
D1 31 24 DA
Q20 24 25 34 QN
Q21 25 22 34 QN
Q22 27 24 34 QN
R12 25 27 4.7K
R13 21 29 6.8K
Q23 21 29 28 QN
Q24 29 27 16 QN
Q25 30 26 34 QN
Q26 21 28 30 QN
D2 30 29 DA
R14 16 15 100
R15 16 26 220
R16 16 34 4.7K
R17 28 30 3.9K
Q3 2 2 9 QP
.MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
.MODEL QP PNP (level=1 BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (level=1 IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2
+ BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS


* model file: /home/david/EAGLE/spice/BZX84C3V3W.mdl
*SRC=BZX84C3V3W;DI_BZX84C3V3W;Diodes;Zener <=10V; 3.30V  0.200W   Diodes Inc. ZENER
*SYM=HZEN
.SUBCKT BZX84C3V3W  A C
*                  Terminals    A  K
D1 A C DF
DZ 3 A DR
VZ C 3 0.756
.MODEL DF D ( IS=25.0p RS=33.6 N=1.10
+ CJO=127p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=4.99f RS=79.5 N=3.00 )
.ENDS


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* model file: /home/david/EAGLE/spice/BC308B.mdl
* SPICE modeli elementov za laboratorijske vaje 
.MODEL BC546B NPN (IS=2.39E-14 NF=1.008 ISE=3.545E-15 NE=1.541 BF=294.3
+ IKF=0.1357 VAF=63.2 NR=1.004 ISC=6.272E-14 NC=1.243 BR=7.946 IKR=0.1144
+ VAR=25.9 RB=1 IRB=1E-06 RBM=1 RE=0.4683 RC=0.85 XTB=0 EG=1.11 XTI=3 CJE=1.358E-11
+ VJE=0.65 MJE=0.3279 TF=4.391E-10 XTF=120 VTF=2.643 ITF=0.7495 PTF=0
+ CJC=3.728E-12 VJC=0.3997 MJC=0.2955 XCJC=0.6193 TR=1E-32 CJS=0 VJS=0.75
+ MJS=0.333 FC=0.9579 ) 
**********
*SRC=2N3507;QN3507;BJTs NPN;Switching;50V 3A
*PINOUT TO-39 3 2 1
.MODEL QN3507 NPN (IS=148F NF=1.195 BF=195 VAF=127 IKF=1.8
+ ISE=108P NE=2 BR=4 NR=1 VAR=20 IKR=2.7 RE=80.5M RB=.208
+ RC=102.8M XTB=1.5 CJE=510P CJC=96.3P TF=2.12N TR=17N)
*   Motorola 50 Volt  3 Amp  75 MHz  SiNPN  Transistor  04-11-1991
**********
.MODEL T2N2222 NPN (IS=15.2F NF=1 BF=105 VAF=98.5 IKF=.5
+ ISE=8.2P NE=2 BR=4 NR=1 VAR=20 IKR=.225 RE=.373 RB=1.49
+ RC=.149 XTB=1.5 CJE=35.5P CJC=12.2P TF=500P TR=85N)
.MODEL BC238B NPN IS=1.8E-14 ISE=5.0E-14 NF=.9955 NE=1.46 BF=400 BR=35.5
+ IKF=.14 IKR=.03 ISC=1.72E-13 NC=1.27 NR=1.005 RB=.56 RE=.6 RC=.25 VAF=80
+ VAR=12.5 CJE=13E-12 TF=.64E-9 CJC=4E-12 TR=50.72E-9 VJC=.54 MJC=.33
.MODEL BC308B PNP IS=1.149E-14 ISE=5E-14 NF=.9872 NE=1.4 BF=330 BR=13
+ IKF=.1 IKR=.012 ISC=1.43E-14 NC=1.1 NR=.996 RB=.2 RE=.4 RC=.95 VAR=8.15
+ VAF=84.56 CJE=16E-12 TF=.493E-9 CJC=10.5E-12 TR=73.55E-9 MJC=.415 VJC=.565
* 4.7V, 5mA, 300pF, 70Ohm
.model zd4v7 d is=1e-10 rs=70 bv=4.3085 cjo=300p
* 1N4148
.MODEL D1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 


* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.002 1 0 0.002 
write generator_trikotniska.sch.sim V(C) V(Z) I(V_V1)
.endc

.END










